US03983245
A flask containing 5.4 g. (0.028 mol.) of cuprous 4-ethylphenylacetylide in 100 ml. of pyridine is thoroughly flushed with nitrogen. A solution of 6.19 g. (0.028 mol.) of o-iodophenol in 50 ml. of pyridine is added under nitrogen and the reaction mixture is stirred and heated at 120° for 22 hours. The pyridine is removed by distillation in vacuo, the residue is added to an ice-water mixture and the gummy precipitate is collected and dissolved in methylene chloride. The methylene chloride solution is washed with 3N hydrochloric acid and water and concentrated under reduced pressure to give a residue which is chromatographed on a silica gel "dry-column" to give 2-(4-ethylphenyl)benzofuran.

reactant | o-iodophenol | 0.028 mol | IC1=C(C=CC=C1)O | C6H5IO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-(4-ethylphenyl)benzofuran | C(C)C1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C16H14O
